US08049016B2
Synthesis of 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylic acid, the title compound was obtained as a colorless solid: mp 185-187° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.42 (d, J=8.7 Hz, 2H), 7.33 (d, J=8.2 Hz, 2H), 7.29 (br, 2H), 4.44 (s, 2H), 4.01 (t, J=7.3 Hz, 2H), 3.48 (t, J=7.3 Hz, 2H), 2.46 (s, 3H); MS (ES+) m/z 400.7 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C16H14F3N3O4S
product | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide | CC=1N=C(SC1C(=O)N)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C16H15F3N4O3S
